US08202866B2
2-{4-[(E)-2-(2-Amino-phenylcarbamoyl)-vinyl]-phenyl}-N-(4-bromo-phenyl)-4-(1-methyl-pyrrolidin-2-yl)-butyramide
To a solution of (E)-2-{4-[2-(2-tert-butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-4-(1-methyl-pyrrolidin-2-yl)-butyric acid (2.54 g, 5 mmol), Et3N (1.21 g, 10 mmol), and HATU (3.80 g, 10 mmol) in CH2Cl2 (30 mL) was added 4-bromo-phenylamine (1.29 g, 7.5 mmol). This mixture was stirred overnight at room temperature and then evaporated. The mixture redissolved in 20 mL of EtOAc and washed with 2N HCl (20 mL×3), brine, 5% NaHCO3 (20 mL×3), brine, dried with Na2SO4, filtered and evaporated. The residue was purified by column chromatography on silica gel using hexane/EtOAc to give a white solid. 1.25 M HCl/MeOH (4 mL) was added to the product. The solution was stirred for 4 h at ambient temperature. After reaction, the solution was neutralized with solid NaHCO3. The final product was obtained by preparative HPLC. MS: calc'd 561 (MH+), exp 561 (MH+). 1H NMR (d6-DMSO, 400 MHz), 10.25 (d, 1H, J=8.8 Hz), 9.40 (s, 1H), 7.60-7.56 (m, 4H), 7.53 (d, 1H, J=15.6 Hz), 7.49-7.45 (m, 4H), 7.34 (d, 1H, J=8.0 Hz), 6.93 (d, 1H, J=7.6 Hz), 6.88 (d, 1H, J=15.6 Hz), 6.75 (d, 1H, J=7.6 Hz), 6.58 (t, 1H, J=8.0 Hz), 4.95 (s, 2H), 3.71 (broad s, 1H), 3.07 (broad s, 1H), 2.31 (broad s, 4H), 1.99 (broad s, 2H), 1.69-1.46 (broad m, 5H).

reactant | (E)-2-{4-[2-(2-tert-butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-4-(1-methyl-pyrrolidin-2-yl)-butyric acid | 5 mmol, 2.54 g | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(=O)/C=C/C1=CC=C(C=C1)C(C(=O)O)CCC1N(CCC1)C | C29H37N3O5
reactant | Et3N | 10 mmol, 1.21 g | CCN(CC)CC | C6H15N
reactant | HATU | 10 mmol, 3.80 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-bromo-phenylamine | 7.5 mmol, 1.29 g | BrC1=CC=C(C=C1)N | C6H6BrN
reactant | HCl MeOH | 1.25 M, 4 mL | Cl.CO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-{4-[(E)-2-(2-Amino-phenylcarbamoyl)-vinyl]-phenyl}-N-(4-bromo-phenyl)-4-(1-methyl-pyrrolidin-2-yl)-butyramide | NC1=C(C=CC=C1)NC(=O)/C=C/C1=CC=C(C=C1)C(C(=O)NC1=CC=C(C=C1)Br)CCC1N(CCC1)C | C30H33BrN4O2
